US03940422
In a mixture of 20 ml of dry chloroform and 10 ml of dry pyridine were dissolved 2.6 g of 4-aminobenzoic acid. To this mixture were added dropwise under cooling 20 ml of dry chloroform containing 3.2 g of 4-acetoxycinnamoyl chloride. The mixture was heated under reflux for 2 hours and the reaction mixture was concentrated under reduced pressure. The residue was poured into water and hydrochloric acid was then added to make the liquid weakly acidic. The precipitated crystals were collected by filtration and recrystallized from alcohol to yield 2.9 g of 4-(4'-acetoxycinnamoylamino)-benzoic acid. M.P.=305°-307°C (with decomposition).

reactant | 4-aminobenzoic acid | 2.6 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 4-acetoxycinnamoyl chloride | C(C)(=O)OC1=CC=C(C=CC(=O)Cl)C=C1 | C11H9ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 20 ml, 3.2 g | C(Cl)(Cl)Cl | CHCl3
product | 4-(4'-acetoxycinnamoylamino)-benzoic acid | 2.9 g | C(C)(=O)OC1=CC=C(C=CC(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C18H15NO5
